US04937248
6-Piperidinocarbostyril Hydrochloride
6-Piperidinocarbostyril, 0.5 g (0.002 mole), was suspended in 15 mL methanol. Five mL ethanolic hydrogen chloride was added, and the mixture was digested in a steam bath for 15 minutes until part of the methanol was evaporated After cooling, filtration and washing with ethyl acetate, the resulting white crystals, 0.4 g, were recrystallized by dissolving in warm methanol and adding ethyl acetate. The yield was 0.4 g 6-piperidinocarbostyril hydrochloride; m.p. 298°-300° C.

reactant | 6-Piperidinocarbostyril | N1(CCCCC1)C=1C=C2C=CC(NC2=CC1)=O | C14H16N2O
reactant | hydrogen chloride | Five mL | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
product | 6-Piperidinocarbostyril Hydrochloride | Cl.N1(CCCCC1)C=1C=C2C=CC(NC2=CC1)=O | InChI=1S/C14H16N2O.ClH/c17-14-7-4-11-10-12(5-6-13(11)15-14)16-8-2-1-3-9-16;/h4-7,10H,1-3,8-9H2,(H,15,17);1H
